Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: OBSTETRICS/GYNECOLOGY
 
Allergies: 
mesalamine / Rectiv
 
Attending: ___.
 
Chief Complaint:
postdates induction of labor
 
Major Surgical or Invasive Procedure:
SVD
manual removal of placenta
Backri Balloon 
blood transfusion

 
History of Present Illness:
___ is a ___ yo G1P0 with a
long-standing history of palpitations. She first started having
the sensation of rapid beats followed by a pause ___ years ago. 
At
that time, a couple episodes were associated with syncope.
Work-up was performed with Echo, tilt-table test, and Holter
which was reportedly negative. These progressively improved, but
have now worsened again in  pregnancy with occasional
lightheadedness that is not necessarily correlated with
palpitations. Holter evaluation performed in ___ showed
evidence of PVC's. However, she was only able to wear this for a
week due to a rash from the electrode. Echo showed no structural
concerns.  She was seen by Cardiology, who discussed 
___
therapy but decision was made to hold off given potential side
effects during pregnancy as the PVC's did not appear to be
causing any other symptoms.
 
Past Medical History:
Past Medical History: ulcerative colitis, history of PVCs

Past Surgical History: Umbilical Hernia Repair (___)

OB History: G1

GYN History: denies STIs, abnormal pap smears, GYN surgeries
 
Social History:
___
Family History:
mother with DM, HTN, father with diverticulitis, no hx 
ulcerative colitis, crohns, or autoimmune disorders  

 
Physical Exam:
Physical Exam on Arrival:
General: NAD, A&Ox3
Lungs: No respiratory distress, normal work of breathing
Abd: soft, gravid, nontender, no RUQ tenderness
Extremities: no calf tenderness

Physical Exam on Discharge:
Vitals: ___ 2142 Temp: 97.9 PO BP: 98/61 HR: 78 RR: 18 O2
sat: 97% 
General: NAD, A&Ox3
Breasts: non-tender, no erythema, soft, nipples intact
Lungs: No respiratory distress
Abd: soft, nontender, fundus firm at 2cm below umbilicus
Lochia: minimal, no malodor
perineum 2nd degree intact, no edema
Extremities: no calf tenderness
 
Pertinent Results:
___ 04:08PM   WBC-10.3* RBC-3.72* HGB-12.5 HCT-36.6 MCV-98 
MCH-33.6* MCHC-34.2 RDW-13.2 RDWSD-47.7*
___ 04:08PM   PLT COUNT-134*
 
Brief Hospital Course:
Patient is a ___ year old female with past medical history of 
PVCs who underwent an induction of labor using cytotecs and 
pitocin for post-dates.

She had vaginal delivery of viable baby boy complicated by a 
postpartum hemorrhage due to uterine atony. She had placenta and 
trailing membranes manually extracted due to increased bleeding. 
She was given pitocin and cytotec PR. She was hypotensive to 
systolic BP of ___ and HR 140s. She was taken back to the 
operating room for a D&C with Bakri placement and vaginal 
packing. EBL of PPH in delivery room was 800 and in OR was 100.  
Her hematocrit at presentation was 36, which trended down to 
19.3 on postpartum day #1. She was asymptomatic and declined 
blood transfusion. She was started on oral iron BID. Her Bakri 
and vaginal packing were removed on postpartum day #1 without 
further bleeding.

She also had spiked a fever intrapartum and was given 1 dose of 
kefzol and gentamicin postpartum for chorioamnionitis. 

In regards to her history of PVCs, she has been followed by 
___ Cardiology outpatient. She had a normal echo and was 
monitored on telemetry for the first 24 hours postpartum.

Her pain was well controlled on oral medications, she was 
voiding spontaneously, and ambulating without dizziness. She was 
discharged home on postpartum day #2 with outpatient followup 
scheduled.
 
Medications on Admission:
ASA 81 mg daily
PNV
Remicade Infusions
 
Discharge Medications:
1.  Docusate Sodium 100 mg PO BID:PRN Constipation 
RX *docusate sodium 100 mg 1 (One) capsule(s) by mouth twice a 
day Disp #*20 Capsule Refills:*0 
2.  Ibuprofen 600 mg PO Q8H:PRN Moderate Pain 
take with food and take only if needed 
RX *ibuprofen 600 mg 1 (One) tablet(s) by mouth every eight (8) 
hours Disp #*20 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
vaginal birth of a male
postpartum hemorrhage
anemia

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
per written instructions reviewed by nursing and OB providers
anemia precautions, avoid prolonged bending of head, assistance 
with showers for 2 weeks
Floradix iron supplement twice a day
resume prenatal vitamins in one week
 
Followup Instructions:
___